US08377949B2
To a solution of 2-amino-4-methoxy-benzoic acid (1.0 g, 5.98 mmol) and 1,1′-carbonyldiimidazole (980 mg, 6.04 mmol) in pyridine (5 mL) is added 1,8-diazabicyclo[5.4.0]undec-7-ene (0.9 mL, 6.02 mmol). The mixture is stirred at room temperature for 2 hours follows by the addition of (S)-2-amino-hexanoic acid methyl ester hydrochloride (1.1 g, 6.06 mmol). The reaction mixture is stirred at room temperature for 16 hours and diluted with EtOAc (100 mL), the solution is washed with H2O (50 mL×3). The organic layer is dried over sodium sulfate, and is concentrated. The resulting residue is purified by flash chromatography with 60% EtOAc in hexanes as the eluent to afford (S)-2-(2-amino-4-methoxy-benzoylamino)-hexanoic acid methyl ester (1.03 g, 59%).

reactant | 2-amino-4-methoxy-benzoic acid | 5.98 mmol, 1.0 g | NC1=C(C(=O)O)C=CC(=C1)OC | C8H9NO3
reactant | 1,1′-carbonyldiimidazole | 6.04 mmol, 980 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 6.02 mmol, 0.9 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (S)-2-amino-hexanoic acid methyl ester hydrochloride | 6.06 mmol, 1.1 g | Cl.COC([C@H](CCCC)N)=O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-2-(2-amino-4-methoxy-benzoylamino)-hexanoic acid methyl ester | 1.03 g, 59% | COC([C@H](CCCC)NC(C1=C(C=C(C=C1)OC)N)=O)=O | C15H22N2O4
